US04581377
A mixture of 14.5 grams of fluorene-2-carboxaldehyde and 28.5 grams of acetylmethylidene triphenylphosphoran was dissolved in 400 ml of benzene and heated to reflux for 24 hours. Benzene was evaporated from the reaction mixture and the residue was recrystallized from ethanol to give 14.6 grams of 4-(2-fluorenyl)-3-buten-2-one, m.p. 146° to 147.5° C. as white crystals

reactant | fluorene-2-carboxaldehyde | 14.5 grams | C1=C(C=CC=2C3=CC=CC=C3CC12)C=O | C14H10O
reactant | acetylmethylidene triphenylphosphoran | 28.5 grams | C(C)(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
reactant | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | 4-(2-fluorenyl)-3-buten-2-one | 14.6 grams | C1=C(C=CC=2C3=CC=CC=C3CC12)C=CC(C)=O | C17H14O
